US08222245B2
3-[6-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]propanoic acid hydrochloride
1,1-Dimethylethyl 3-[6-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]propanoate (Preparation 18) (25 mg, 0.049 mmol) was stirred at room temperature for 18 hours in 4M HCl in 1,4-dioxane (10 ml). Evaporation and trituration with diethylether yielded the title compound 3-[6-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]propanoic acid hydrochloride (13 mg, 0.026 mmol, 54.1% yield) as a yellow gum. MS (ES) C24H2635ClN3O4 requires 455; found 456 [M+H]+.

reactant | 1,1-Dimethylethyl 3-[6-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]propanoate | 0.049 mmol, 25 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CCN(CCC21)CCC(=O)OC(C)(C)C | C28H34ClN3O4
solvent | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-[6-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]propanoic acid hydrochloride | 0.026 mmol, 13 mg, 54.1% yield | Cl.ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CCN(CCC21)CCC(=O)O | InChI=1S/C24H26ClN3O4.ClH/c1-15(2)31-21-7-6-17(14-20(21)25)24-26-23(27-32-24)19-5-3-4-16-8-11-28(12-9-18(16)19)13-10-22(29)30;/h3-7,14-15H,8-13H2,1-2H3,(H,29,30);1H
